US03971821
38 parts of m-nitrodiethylaniline is introduced into a mixture of 48 parts of phosphorus oxychloride in 120 parts of dimethylformamide. After having been stirred for six hours at 60°C the mixture is poured into ice-water and the precipitate is suction filtered, washed free from acid and recrystallized from acetone. 12 parts (27% of theory) of 2-nitro-4-diethylaminobenzaldehyde having a melting point of 75° to 77°C is obtained. ##SPC15##

reactant | m-nitrodiethylaniline | [N+](=O)([O-])C=1C=C(N(CC)CC)C=CC1 | C10H14N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-nitro-4-diethylaminobenzaldehyde | 27% | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)N(CC)CC | C11H14N2O3
